US09315521B2
2-[({6-chloroimidazo[2,1-b][1,3]thiazol-5-yl}methyl)sulfanyl]-6-methylpyrimidin-4-ol
{6-chloroimidazo[2,1-b][1,3]thiazol-5-yl}methanol was converted to 5-(bromomethyl)-6-chloroimidazo[2,1-b][1,3]thiazole, which was then reacted with 6-methyl-2-sulfanylpyrimidin-4-ol to give the title compound as a white solid (0.27 g, 22% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.67 (s, 2H), 6.04 (bs, 1H), 7.42 (d, J=4.7 Hz, 1H), 8.02 (d, J=4.7 Hz, 1H); M+312.8.

reactant | {6-chloroimidazo[2,1-b][1,3]thiazol-5-yl}methanol | ClC=1N=C2SC=CN2C1CO | C6H5ClN2OS
reactant | 5-(bromomethyl)-6-chloroimidazo[2,1-b][1,3]thiazole | BrCC1=C(N=C2SC=CN21)Cl | C6H4BrClN2S
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-[({6-chloroimidazo[2,1-b][1,3]thiazol-5-yl}methyl)sulfanyl]-6-methylpyrimidin-4-ol | 0.27 g, 22% yield | ClC=1N=C2SC=CN2C1CSC1=NC(=CC(=N1)O)C | C11H9ClN4OS2
